US07588880B2
Preparation of diethylene glycol monoglycidyl ether
Under a nitrogen atmosphere, 26.53 g of diethylene glycol, 0.25 g of lanthanum perchlorate hexahydrate and 50 ml of toluene are placed as the initial charge in a 350 ml sulfonating flask equipped with an intensive condenser and a propeller stirrer and heated to 105° C. After reaching an internal temperature of 105° C., with the temperature remaining constant 21.3 g of epichlorohydrin are added dropwise in the course of 70 minutes. After subsequently stirring for 14 hours at 105° C., 30 ml of toluene are added to the reaction mixture, in order then to remove by azeotropic distillation any water still present. At normal pressure about 30 ml of azeotrope are distilled off. After cooling to from 48 to 50° C., about 19 g of diazobicycloundecene are added dropwise in the course of 30 minutes and the mixture is subsequently stirred for 2 hours. After cooling to room temperature, the lower phase of the two-phase reaction mixture is adjusted to pH 5 to 8 using acetic acid, diluted with methylene chloride and extracted 3 times with approximately 100 ml of brine each time. After drying with magnesium sulfate, the crude product so obtained is concentrated to dryness and 27.1 g (73% of theory) of a slightly yellowish, viscous oil are obtained. 12 g of the crude product are purified by means of flash chromatography (800 g of silica gel 60 F; ethyl acetate 95: methanol 5). The desired product is obtained in the form of a slightly yellowish oil of approximately 85% purity (determined by GC). According to 1H-NMR spectrum, the by-product (15%, determined by GC) is the following compound:

reactant | diethylene glycol | 26.53 g | C(COCCO)O | C4H10O3
reactant | lanthanum perchlorate hexahydrate | 0.25 g | O.O.O.O.O.O.Cl(=O)(=O)(=O)[O-].[La+3].Cl(=O)(=O)(=O)[O-].Cl(=O)(=O)(=O)[O-]
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | epichlorohydrin | 21.3 g | C(Cl)C1CO1 | C3H5ClO
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | diethylene glycol monoglycidyl ether | C(C1CO1)OCCOCCO | C7H14O4
